US08975265B2
{1-[4-(3-phenyl-6-vinyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester
A mixture of {1-[4-(6-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester (70 mg, 60% purity by UPLC-MS), potassium carbonate (11.2 mg), tetraethylammonium bromide (22.1 mg), tributylvinyl stannane (38.5 mg) and trans-dichlorobis(triphenylphosphine) palladium (II) (1.7 mg) in THF (0.66 mL) under argon was heated at 120° C. for 45 min. On cooling the reaction was partitioned between DCM and water, the organic extract dried and concentrated to give the crude title compound which was used without further purification.

reactant | {1-[4-(6-bromo-3-phenyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | 70 mg | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)Br)C1C1=CC=CC=C1)=O | C28H28BrN3O2
reactant | potassium carbonate | 11.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | tributylvinyl stannane | 38.5 mg | C(CCC)C(=C(CCCC)CCCC)[SnH3]
catalyst | tetraethylammonium bromide | 22.1 mg | [Br-].C(C)[N+](CC)(CC)CC
solvent | THF | 0.66 mL | C1CCOC1 | C4H8O
product | {1-[4-(3-phenyl-6-vinyl-imidazo[1,2-a]pyridin-2-yl)-phenyl]-cyclobutyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1(CCC1)C1=CC=C(C=C1)C=1N=C2N(C=C(C=C2)C=C)C1C1=CC=CC=C1)=O | C30H31N3O2
